US08859580B2
(2R,6S)-6,11,11-Trimethyl-8-(2,2,2-trifluoro-1-hydroxy-1-methyl-ethyl)-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocine-3-carboxylic acid tert-butyl ester
Me3SiCF3 (2 M in tetrahydrofuran, 0.42 mL) is added dropwise to a mixture of (2R,6S)-8-acetyl-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocine-3-carboxylic acid tert-butyl ester (0.30 g) and CsF (13 mg) in tetrahydrofuran (3 mL) cooled to ca. −5° C. The mixture is stirred at −5° C. for 1.5 h. Then, 1 M aqueous HCl solution (70 mL) is added and the mixture is stirred for 1 h. The mixture is basified using aqueous K2CO3 solution and then extracted with ethyl acetate. The combined organic extracts are washed with brine and dried (MgSO4). The solvent is evaporated to give the crude title compound that is submitted for cleaving the protective group without further purification.

reactant | Me3SiCF3 | 2 M, 0.42 mL | [Si](C)(C)(C)C(F)(F)F | C4H9F3Si
reactant | (2R,6S)-8-acetyl-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocine-3-carboxylic acid tert-butyl ester | 0.30 g | C(C)(C)(C)OC(=O)N1[C@@H]2CC3=C([C@](CC1)(C2(C)C)C)C=C(C=C3)C(C)=O | C22H31NO3
reactant | CsF | 13 mg | [F-].[Cs+]
reactant | HCl | 1 M, 70 mL | Cl | ClH
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | (2R,6S)-6,11,11-Trimethyl-8-(2,2,2-trifluoro-1-hydroxy-1-methyl-ethyl)-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]2CC3=C([C@](CC1)(C2(C)C)C)C=C(C=C3)C(C(F)(F)F)(C)O | C23H32F3NO3
